US09284323B2
A solution of (S)-ethyl 2-(1-(1-chloro-3-methylnaphthalen-2-yl)-2-(trityloxy)ethoxy)-2-methylpropanoate (1.58 g, 2.66 mmol) in diethyl ether (62 mL) was treated with DIBAL-H (1.0 M in hexanes, 13.3 mL, 13.3 mmol) at 23° C. After 5 min, aq. Rochelle's salt (excess) was added dropwise over 5 min until bubbling ceased. The quenched reaction was agitated manually for 1 min to ensure full quenching. The system transitioned from a slurry to a gel. 50% w/v aw KOH (10 mL) was added, followed by H2O (40 mL), and the reaction was manually agitated until magnetic stirring was achievable (the reaction transitioned from a gel to a biphasic solution). After 15 min of stirring the reaction was extracted with diethyl ether (3×30 mL). Combined organic layers were dried quickly over MgSO4 for 1 min and promptly filtered and concentrated. The residue was treated with benzene and purified by flash column chromatography (silica gel, 0 to 100% ethyl acetate/hexanes) to give (S)-2-(1-(1-chloro-3-methylnaphthalen-2-yl)-2-(trityloxy)ethoxy)-2-methylpropan-1-ol. 1H NMR (400 MHz, CDCl3) δ 8.23 (d, J=8.2 Hz, 1H), 7.67 (d, J=7.8 Hz, 1H), 7.52-7.38 (m, 9H), 7.31-7.18 (m, 9H), 5.87 (dd, J=9.5, 3.9 Hz, 1H), 3.76 (d, AB-spin system, J=11.8 Hz, 1H), 3.60 (dd, J=9.6, 9.6 Hz, 1H), 3.32 (d, AB-spin system, J=11.8 Hz, 1H), 3.26 (dd, J=9.8, 3.9 Hz, 1H), 2.49 (s, 3H), 1.16 (s, 3H), 1.02 (s, 3H).

reactant | (S)-ethyl 2-(1-(1-chloro-3-methylnaphthalen-2-yl)-2-(trityloxy)ethoxy)-2-methylpropanoate | 2.66 mmol, 1.58 g | ClC1=C(C(=CC2=CC=CC=C12)C)[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC(C(=O)OCC)(C)C | C38H37ClO4
reactant | DIBAL-H | 13.3 mmol, 1.0 M, 13.3 mL | CC(C)C[AlH]CC(C)C
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | KOH | 10 mL | [OH-].[K+]
solvent | diethyl ether | 62 mL | C(C)OCC | C4H10O
solvent | H2O | 40 mL | O | H2O
product | (S)-2-(1-(1-chloro-3-methylnaphthalen-2-yl)-2-(trityloxy)ethoxy)-2-methylpropan-1-ol | ClC1=C(C(=CC2=CC=CC=C12)C)[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC(CO)(C)C | C36H35ClO3
